US04775223
10 ml of thionyl chloride was added to 2.0 g of α-octyloxypropionic acid, and the mixture was refluxed under heat for 2 hours. Then, excess thionyl chloride was distilled off to obtain α-octyloxypropionic acid chloride. 20 ml of dry pyridine was added thereto, and a solution of 5.0 g of p-hydroxybenzoic acid dissolved in 40 ml of dry pyridine was further added. After the addition, the mixture was refluxed for 2 hours, charged into ice water, and extracted with benzene. The extract was purified with a silica gel column chromatography to obtain 4-α-octyloxypropanoyloxybenzoic acid.

reactant | α-octyloxypropionic acid | 2.0 g | C(CCCCCCC)OC(C(=O)O)C | C11H22O3
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | α-octyloxypropionic acid chloride | C(CCCCCCC)OC(C(=O)Cl)C | C11H21ClO2
